US08012966B2
A stirred solution of [3-(2,2-dimethyl-4,6-dioxo-[1,3]dioxin-5-ylidene)-3-hydroxy-propyl]-carbamic acid tert-butyl ester in absolute ethanol (112 ml) was heated to reflux at 70° C. overnight, and cooled to room temperature. The mixture was filtered and concentrated under reduced pressure to give 5-tert-butoxycarbonylamino-3-oxo-pentanoic acid ethyl ester (11.22 g, 87%) as a white solid.

reactant | [3-(2,2-dimethyl-4,6-dioxo-[1,3]dioxin-5-ylidene)-3-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC(O)=C1C(OC(OC1=O)(C)C)=O)=O | C14H21NO7
solvent | ethanol | 112 ml | C(C)O | C2H6O
product | 5-tert-butoxycarbonylamino-3-oxo-pentanoic acid ethyl ester | 11.22 g, 87% | C(C)OC(CC(CCNC(=O)OC(C)(C)C)=O)=O | C12H21NO5
